US08222416B2
To a 0° C. solution of 1-(tert-butyl-dimethyl-silanyl)-2,3-dihydro-1H-pyrrolo[2,3-b]pyridine (20 g, 85.6 mmol) and pyridine (8.4 mL) in dichloromethane (500 mL) was added dropwise to a solution of bromine (5.6 mL, 111.4 mmol) in dichloromethane (400 mL) over a period of 1 h. After stirring for 1 h at 0° C., the mixture was diluted with a mixture of saturated solutions of sodium thiosulfate-sodium bicarbonate (1:1 v/v) and stirred vigorously for 30 min. The resulting mixture was partitioned and the aqueous layer was extracted with dichloromethane. The combined organic extracts were dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by flash silica gel chromatography (silica gel from QingDao, 200-300 mesh, glass column from Shanghai SD company, 2% ethyl acetate/hexanes) to afford 5-bromo-1-(tert-butyl-dimethyl-silanyl)-2,3-dihydro-1H-pyrrolo[2,3-b]pyridine (22.5 g, 84%) as a light yellow oil: LC/MS m/e calcd for C13H22BrN2Si [M+H]+ 314.32, observed 313.1, 315.1; 1H NMR (400 MHz, CDCl3) δ ppm 0.32 (s, 6H), 0.96 (s, 9H, 3×CH3), 3.01 (t, J=8.7 Hz, 2H), 3.68 (t, J=8.7 Hz, 2H), 7.21 (br. s., 1H), 7.81 (br. s., 1H).

reactant | 1-(tert-butyl-dimethyl-silanyl)-2,3-dihydro-1H-pyrrolo[2,3-b]pyridine | 85.6 mmol, 20 g | C(C)(C)(C)[Si](N1CCC=2C1=NC=CC2)(C)C | C13H22N2Si
reactant | pyridine | 8.4 mL | N1=CC=CC=C1 | C5H5N
reactant | bromine | 111.4 mmol, 5.6 mL | BrBr | Br2
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
solvent | sodium thiosulfate sodium bicarbonate | S(=S)(=O)([O-])[O-].[Na+].[Na+].C([O-])(O)=O.[Na+]
product | 5-bromo-1-(tert-butyl-dimethyl-silanyl)-2,3-dihydro-1H-pyrrolo[2,3-b]pyridine | 22.5 g, 84% | BrC=1C=C2C(=NC1)N(CC2)[Si](C)(C)C(C)(C)C | C13H21BrN2Si
